US06887874B2
A solution of 7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxycinnoline (100 mg, 0.186 mmol) in methylene chloride (3 ml) containing TFA (1 ml) was stirred at ambient temperature for 2 hours. The volatiles were removed under vacuum. The residue was partitioned between water and methylene chloride and the pH of the aqueous layer was adjusted to 13 with 6N aqueous sodium hydroxide. The organic layer was separated, washed with water, brine, dried (MgSO4) and evaporated. The residue was triturated with ether/pentane (1/1). The solid was filtered, washed with pentane and dried under vacuum to give 4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(piperidin-4-ylmethoxy)cinnoline (50 mg, 62%).

reactant | 7-(1-(tert-butoxycarbonyl)piperidin-4-ylmethoxy)-4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxycinnoline | 0.186 mmol, 100 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)COC1=C(C=C2C(=CN=NC2=C1)OC=1C(=C2C=C(NC2=CC1)C)F)OC | C29H33FN4O5
reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
product | 4-(4-fluoro-2-methylindol-5-yloxy)-6-methoxy-7-(piperidin-4-ylmethoxy)cinnoline | 50 mg, 62% | FC1=C2C=C(NC2=CC=C1OC1=CN=NC2=CC(=C(C=C12)OC)OCC1CCNCC1)C | C24H25FN4O3
